US05279999
Preparation of bis(1,3-diphenylcyclopentadienyl)zirconium dichloride
A solution (1.4 ml) of n-butyllithium in hexane (1.6 mole/liter, 0.0023 mole n-butyllithium) at 80° C. was added slowly to 0.50 g (0.0023 mole) of 1,3-diphenylcyclopentadiene dissolved in 20 ml tetrahydrofuran. The mixture thus obtained was allowed to reach room temperature. A mixture of 0.268 g (0.00115 mole) of zirconium tetrachloride in 10 ml tetrahydrofuran was slowly added. After stirring the mixture for two hours, the solvents were evaporated. The solid material obtained was taken up in toluene and centrifuged. The supernatant was decanted and cooled to -20° C. The crystallized product was recovered by filtration.

reactant | n-butyllithium | 1.4 ml | C(CCC)[Li]
reactant | hexane | 0.0023 mole, 1.6 mole/liter | CCCCCC | C6H14
reactant | 1,3-diphenylcyclopentadiene | 0.0023 mole, 0.50 g | C1(=CC=CC=C1)C1=CC(=CC1)C1=CC=CC=C1 | C17H14
reactant | zirconium tetrachloride | 0.00115 mole, 0.268 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | bis(1,3-diphenylcyclopentadienyl)zirconium dichloride | [Cl-].[Cl-].C1(=CC=CC=C1)C1(C=C(C=C1)C1=CC=CC=C1)[Zr+2]C1(C=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/2C17H13.2ClH.Zr/c2*1-3-7-14(8-4-1)16-11-12-17(13-16)15-9-5-2-6-10-15;;;/h2*1-13H;2*1H;/q;;;;+2/p-2
